2190-12-07 22:44:00 Physician Attending Progress Note
Chief Complaint: Hypoxemia, respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Pt. known to MICU service for recent MICU admission for hypotension -->
   attributed predominately to hypovolemia.  Improved with iv hydration,
   and transferred to medical [**Hospital1 **] [**2190-12-4**].  Encephalopathy noted and
   persisted.
   Since transfer to medical [**Hospital1 **], developed resp. distress and hypoxemia
   last PM --> attributed to CHF, with only mild improvement in dyspnea
   with diuretic, but required increased supplimental oxygen.  Persistent
   symptoms promted  ABG= 7.30/32/43 and relative hypotension -->
   transferred to MICU service for further evaluation and managment.
   In MICU states to feel improved, using 100% non-rebreather mask.
   States breathing is easier.
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Iodine
   Unknown;
   Penicillins
   Hives; Shortnes
   Morphine
   Unknown;
   Flagyl (Oral) (Metronidazole)
   Unknown;
   Allopurinol
   Unknown;
   Erythromycin (Oral) (Erythromycin Base)
   Unknown;
   Tetracycline
   Unknown;
   Septra (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Ramipril
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2190-12-7**] 08:45 PM
   Aztreonam - [**2190-12-7**] 08:47 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, Dyspnea, Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, No(t) Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2190-12-7**] 10:39 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 71 (71 - 75) bpm
   BP: 105/60(70) {102/45(59) - 116/63(74)} mmHg
   RR: 17 (16 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78 kg (admission): 75 kg
   Height: 67 Inch
             Total In:
             263 mL
   PO:
             TF:
   IVF:
   263 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    520 mL
   Urine:
   520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                   -257 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 100%
   ABG: 7.43/25/63/16/-5
   PaO2 / FiO2: 63
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : Coarse, No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, No(t)
   Tender: , No(t) Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place (hospital), Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Normal, Asterixis, mild
   Labs / Radiology
   8.0 g/dL
   48 K/uL
   252 mg/dL
   2.1 mg/dL
   16 mEq/L
   3.5 mEq/L
   53 mg/dL
   110 mEq/L
   140 mEq/L
   23.1 %
   8.1 K/uL
        [image002.jpg]
                            [**2190-12-2**]  09:07 PM
                            [**2190-12-3**]  03:37 AM
                            [**2190-12-3**]  04:00 AM
                            [**2190-12-3**]  04:12 PM
                            [**2190-12-3**]  04:21 PM
                            [**2190-12-4**]  02:38 AM
                            [**2190-12-7**]  06:19 PM
                            [**2190-12-7**]  07:01 PM
   WBC
   9.8
   9.2
   19.3
   8.1
   Hct
   32.5
   31.8
   29.2
   29.5
   23.1
   Plt
   169
   205
   177
   48
   Cr
   3.1
   3.1
   3.0
   2.8
   2.1
   TCO2
   13
   13
   17
   Glucose
   158
   213
   201
   252
   Other labs: PT / PTT / INR:17.9/20.7/1.6, ALT / AST:40/38, Alk Phos / T
   Bili:92/2.1, Amylase / Lipase:60/96, Differential-Neuts:89.9 %,
   Lymph:4.7 %, Mono:4.7 %, Eos:0.6 %, Fibrinogen:142 mg/dL, Lactic
   Acid:2.5 mmol/L, Albumin:3.9 g/dL, LDH:270 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.9 mg/dL
   Fluid analysis / Other labs: BNP > 40,000
   Imaging: CXR ([**2190-12-7**]) diffuse patchy bilateral nodular infiltrates
   Assessment and Plan
   Pneumonia, multilobar (aspiration) and possible component CHF
   (systolic).
   RESPIRATORY DISTRESS -- multifactorial; suspect predominately
   attributed to pneumonia, probable aspiration (encephalopathy as risk
   factor).  Also consider contribution of CHF (in context of elevated
   BNP).  Monitor RR, SaO2, maintain SaO2 >90%.  Low threshold for
   intubation.
   HYPOXEMIA -- attributed to diffuse bilateral pulmonary process.
   Improved with increased FiO2 and empirical diuretics.  Susupect
   predominately pneumonia, although cannot exclude component of CHF.
   Monitor SaO2.
   PULMONARY INFILTRATES -- suspect infection, probable aspiration
   pneuomonia, although concern for opportunistic infection (such as
   PcP).  [**Month (only) 11**] be contribution of pulmonary edema in setting of
   cardiomyopahty and elevated BNP.  Empirical antibiotics.  Consider IS
   for PcP [**Name Initial (PRE) 1743**].  Await cultures.
   HYPOTENSION -- relative hypotension.  [**Name2 (NI) 11**] be attributed to volume shift
   in setting of diuretics.  Also consider sepsis.  No evidence for
   bleeding.  Doubt adrenal insufficiency.  Monitor BP, maintain MAP > 60
   mmHg.  Infection may not manifest with fever or elevated WBC in
   cirrhotic pt.
   RENAL FAILURE -- continued improvement in creatinine with iv fluid
   hydration.  Monitor i/o, BUN, creatinine.
   HYPOKALEMIA
 replete to K>4.0
   CARDIOMYOPATHY -- [**Last Name (LF) 1744**], [**First Name3 (LF) **]= 25-30%.  Elevated BNP may be
   attriibuted in part to CHF.  Monitor I/O, exam.
   FLUIDS -- replete.  Monitor I/O.  Maintain balance.  [**Month (only) 11**] consider net
   diuresis (mild) if BP sufficient.
   NUTRITIONAL SUPPORT -- NPO pending evaluation.  [**Month (only) 11**] initiate TF if
   remains aspiration risk.
   PCN ALLERGY -- avoid penicillin products.
   ENCEPHALOPATHY -- hepatic.  Continue lactulose.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2190-12-7**] 06:27 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 55 minutes
   Patient is critically ill

2190-12-08 07:27:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2190-12-7**] 08:44 PM
   1. started on vancomycin, levofloxacin, aztreonam for multifocal pna
   2. on NRB overnight
   Allergies:
   Iodine
   Unknown;
   Penicillins
   Hives; Shortnes
   Morphine
   Unknown;
   Flagyl (Oral) (Metronidazole)
   Unknown;
   Allopurinol
   Unknown;
   Erythromycin (Oral) (Erythromycin Base)
   Unknown;
   Tetracycline
   Unknown;
   Septra (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Ramipril
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2190-12-7**] 08:45 PM
   Levofloxacin - [**2190-12-7**] 10:04 PM
   Aztreonam - [**2190-12-8**] 04:09 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-12-8**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 93 (70 - 102) bpm
   BP: 101/51(61) {88/45(59) - 116/63(74)} mmHg
   RR: 17 (16 - 28) insp/min
   SpO2: 98%
   Heart rhythm: AV Paced
   Wgt (current): 78 kg (admission): 75 kg
   Height: 67 Inch
             Total In:
                                                                    433 mL
                                                                    124 mL
   PO:
             TF:
   IVF:
                                                                    433 mL
                                                                    124 mL
   Blood products:
   Total out:
                                                                    520 mL
                                                                    445 mL
   Urine:
                                                                    520 mL
                                                                    445 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -87 mL
                                                                   -321 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 98%
   ABG: 7.43/25/63/16/-5
   PaO2 / FiO2: 63
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   83 K/uL
   8.9 g/dL
   174 mg/dL
   2.1 mg/dL
   16 mEq/L
   3.3 mEq/L
   56 mg/dL
   110 mEq/L
   140 mEq/L
   25.9 %
   9.3 K/uL
        [image002.jpg]
                            [**2190-12-2**]  09:07 PM
                            [**2190-12-3**]  03:37 AM
                            [**2190-12-3**]  04:00 AM
                            [**2190-12-3**]  04:12 PM
                            [**2190-12-3**]  04:21 PM
                            [**2190-12-4**]  02:38 AM
                            [**2190-12-7**]  06:19 PM
                            [**2190-12-7**]  07:01 PM
                            [**2190-12-8**]  03:29 AM
   WBC
   9.8
   9.2
   19.3
   8.1
   9.3
   Hct
   32.5
   31.8
   29.2
   29.5
   23.1
   25.9
   Plt
   169
   205
   177
   48
   83
   Cr
   3.1
   3.1
   3.0
   2.8
   2.1
   2.1
   TCO2
   13
   13
   17
   Glucose
   158
   213
   201
   252
   174
   Other labs: PT / PTT / INR:20.0/30.5/1.9, ALT / AST:39/35, Alk Phos / T
   Bili:86/2.1, Amylase / Lipase:60/96, Differential-Neuts:89.9 %,
   Lymph:4.7 %, Mono:4.7 %, Eos:0.6 %, Fibrinogen:142 mg/dL, Lactic
   Acid:2.5 mmol/L, Albumin:3.7 g/dL, LDH:270 IU/L, Ca++:8.8 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 DIABETES MELLITUS (DM), TYPE II
 HYPOXEMIA
 HYPOTENSION (NOT SHOCK)
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
 .H/O CIRRHOSIS OF LIVER, OTHER
   A/P: 70M h/o liver cirrhosis c/b esophogeal varices, hematochezia,
   ulcerative colitis, coronary disease s/p MI and CABG, CVA, CRI, Afib on
   coumadin, presents from floor with hypotension, hypoxia, and
   tachypnea.
   .
   #Hypoxia/Tachypnea: History of CHF with EF 25%, BNP 48,000. Diuretics
   have been  held recently  in setting of acute renal failure. Recent CXR
   with multifocal airspace opacities consistent with multifocal
   poneumonia, in addition to pulmonary edema.  patient has been given
   lasix 40mg IV X2 today with urine output of 1700ccs, however hypoxia
   persisted. recent ABG with PO2 65 on 7L.
   Will treat for hospital acquired pneumonia with broad spectrum
   antibiotics.
   -vancomycin, levofloxacin, and aztreonam, given penicillin allergy
   -place on Non-Rebreather
   .
   # Hypotension: Relative hypotension today with baseline 120/60
   decreasing to 95/40. Appears to have resulted in setting of lasix
   administration.  patient may also be septic in setting of CXR
   consistent with multifocal pneumonia, and ascites with possible SBP.
   Differential with 90% neutrophils.
   -broad spectrum antibiotics
   -holding lasix for now
   .
   #GI bleed: History of esophogeal varices. Also related to UC given
   recent flare and discontinuing medications in the past week.
   - lansoprazole
   - nadolol
   -holding coumadin
   -prednisone for ulcerative colitis
   .
   # Altered mental status: Likely due to hepatic encephalopathy off
   medications. Infectious causes also possible.
   - Lacutlose
   - f/u broad cultures
   - Continue abx
   .
   # Ulcerative colitis: Followed by Dr. [**First Name (STitle) **]. Recent flare noted on
   C-scope [**10-18**]. Patient had been non-compliant with medications for the
   past week coinciding with worsening of his symptoms.
   - Restart prednisone 40mg daily per liver recs
   -followed by dr. [**First Name (STitle) **]
   .
   # Cirrhosis: Stage IV based on varices, ascites, splenomegaly. Followed
   by Dr. [**Name (STitle) 1609**]. Etiology of cirrhosis was unclear. Possibility with
   PSC with UC was entertained and an outpatient ERCP was recommened by
   liver within 2 weeks of discharge.
   - Lactulose 30ml q4h for goal stool output >1L
   - Continue Ursodiol for ?PSC; consider inpatient MRCP/ERCP
   - Liver following
    .
   # Acute on chronic renal failure: Baseline Cre 1.8-2.0, currently 2.0,
   resolved with fluid resuscitation. Likely prerenal [**3-13**] poor PO intake
   and diarrhea.
   -urine lytes
   -holding diuretics
   .
   # CAD: s/p multiple prior MI and CABG revascularization.
   - continue aspirin
   - Hold beta-blockers and lisinopril given hypotension
   - Continue statin
   .
   # Chronic systolic heart failure: EF 20-25% per OSH records, s/p ICD
   for VT w/ dual-chamber pacemaker. Appears euvolemic currently.
   - Daily weights and I/Os strictly
   - holding lisinopril in setting of hypotension
   .
   # Afib: A-V paced.
   - holding digoxin and amiodarone, per cards.
   - Hold beta-blockers and coumadin for now
   - cardiac recs
   .
   # CVA: Reported to have had stroke in past in setting of not being on
   coumadin, complicated by residual defecits. Holding coumadin.
   .
   # DM2: Unknown recent A1c. Hold metformin while in-house, and follow
   FSBG qid w/ ISS coverage.
   .
   # FEN: NPO except meds, replete lytes prn
   # Access: PIV x2 (18g)
   # PPx:  PPI, sub q heparin
   # Code: Full
   # Dispo: ICU pending HD stability, improved mental status
   # Comm: [**Name (NI) 288**] (daughter) ([**2190**]; cell ([**Telephone/Fax (1) 1612**]
 DIABETES MELLITUS (DM), TYPE II
 HYPOXEMIA
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
 .H/O CIRRHOSIS OF LIVER, OTHER
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2190-12-7**] 06:27 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2190-12-7**] 06:27 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2190-12-08 08:22:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2190-12-7**] 08:44 PM
   7.43/25/63 on 7L face mask
   -          Received lasix 40 mg IV x 2 on the floor
   -          Vanc , aztreonam and levofloxacin
   -          100% NRB overnight
   Allergies:
   Iodine
   Unknown;
   Penicillins
   Hives; Shortnes
   Morphine
   Unknown;
   Flagyl (Oral) (Metronidazole)
   Unknown;
   Allopurinol
   Unknown;
   Erythromycin (Oral) (Erythromycin Base)
   Unknown;
   Tetracycline
   Unknown;
   Septra (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Ramipril
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2190-12-7**] 08:45 PM Day2
   Levofloxacin - [**2190-12-7**] 10:04 PM day 2
   Aztreonam - [**2190-12-8**] 04:09 AM Day2
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-12-8**] 08:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 102 (70 - 102) bpm
   BP: 100/51(61) {88/45(59) - 116/63(74)} mmHg
   RR: 17 (16 - 28) insp/min
   SpO2: 96%  (100%NRB), 80
s on face mask
   Heart rhythm: AV Paced
   Wgt (current): 78 kg (admission): 75 kg
   Height: 67 Inch
             Total In:
                                                                    433 mL
                                                                    134 mL
   PO:
             TF:
   IVF:
                                                                    433 mL
                                                                    134 mL
   Blood products:
   Total out:
                                                                    520 mL
                                                                    445 mL
   Urine:
                                                                    520 mL
                                                                    445 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -87 mL
                                                                   -311 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 96%
   ABG: 7.43/25/63/16/-5
   PaO2 / FiO2: 63
   Physical Examination
   Pe
   Labs / Radiology
   8.9 g/dL
   83 K/uL
   174 mg/dL
   2.1 mg/dL
   16 mEq/L
   3.3 mEq/L
   56 mg/dL
   110 mEq/L
   140 mEq/L
   25.9 %
   9.3 K/uL
        [image002.jpg]
                            [**2190-12-2**]  09:07 PM
                            [**2190-12-3**]  03:37 AM
                            [**2190-12-3**]  04:00 AM
                            [**2190-12-3**]  04:12 PM
                            [**2190-12-3**]  04:21 PM
                            [**2190-12-4**]  02:38 AM
                            [**2190-12-7**]  06:19 PM
                            [**2190-12-7**]  07:01 PM
                            [**2190-12-8**]  03:29 AM
   WBC
   9.8
   9.2
   19.3
   8.1
   9.3
   Hct
   32.5
   31.8
   29.2
   29.5
   23.1
   25.9
   Plt
   169
   205
   177
   48
   83
   Cr
   3.1
   3.1
   3.0
   2.8
   2.1
   2.1
   TCO2
   13
   13
   17
   Glucose
   158
   213
   201
   252
   174
   Other labs: PT / PTT / INR:20.0/30.5/1.9, ALT / AST:39/35, Alk Phos / T
   Bili:86/2.1, Amylase / Lipase:60/96, Differential-Neuts:89.9 %,
   Lymph:4.7 %, Mono:4.7 %, Eos:0.6 %, Fibrinogen:142 mg/dL, Lactic
   Acid:2.5 mmol/L, Albumin:3.7 g/dL, LDH:270 IU/L, Ca++:8.8 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   Pneumonia, multilobar (aspiration) and possible component CHF
   (systolic).
   RESPIRATORY DISTRESS -- multifactorial; suspect predominately
   attributed to pneumonia, probable aspiration (encephalopathy as risk
   factor).   Check GM and [**2-11**] glucan.
   HYPOXEMIA -- attributed to diffuse bilateral pulmonary process.
   Improved with increased FiO2 and empirical diuretics.  Suspect
   predominately pneumonia, although cannot exclude component of CHF with
   high pro-BNP.  Monitor SaO2.
   PULMONARY INFILTRATES -- suspect infection, probable aspiration
   pneumonia, although concern for opportunistic infection (such as PCP).
   [**Month (only) 11**] be contribution of pulmonary edema in setting of cardiomyopathy and
   elevated BNP.  Empirical antibiotics.  Consider Induced sputum for
   PCP.  [**Name10 (NameIs) **] check nasal swab for influenza.  Await cultures. Doubt we
   are dealing with DAH at this time. [**Month (only) 11**] begin empiric PCP coverage if
   LDH is high while sputum cultures are awaited. Will begin lasix drip to
   help with fluid removal today, if needed with low dose neosynephrine.
   Will need to keep strictly NPO. Will attempt to keep TBB negative by 1
   L over next 24 hours. BiPAP to start today to help with respiratory
   distress.
   HYPOTENSION -- relative hypotension.  [**Name2 (NI) 11**] be attributed to volume shift
   in setting of diuretics.  Also consider sepsis.  No evidence for
   bleeding.  There is low adrenal reserve but will start IV
   hydrocortisone/ solumedrol given severity of ongoing stress.  Monitor
   BP, maintain MAP > 60 mmHg.  Infection may not manifest with fever or
   elevated WBC in cirrhotic pt. will likely need PICC line or CVL for
   pressors if needed.
    RENAL FAILURE -- continued improvement in creatinine with iv fluid
   hydration.  Monitor i/o, BUN, creatinine. Baseline Crt 1.5-2.0.
   HYPOKALEMIA
 replete to K>4.0
   CARDIOMYOPATHY -- ischemic, EF= 25-30%.  Elevated BNP may be
   attriibuted in part to CHF.  Poor tolerability to elevated heart rate
   and Afib. Will get lasix today as BP allows. Recent echo shows severe
   LV dysfunction with features of RV dysfunction. [**Month (only) 11**] restart digoxin /
   amiodarone in 24 hours if starts to climb. Will check cardiac enzymes
   today.
   ANEMIA; ? ongoing GI losses or hemoptysis that still hasn
t been overt.
   NUTRITIONAL SUPPORT -- NPO pending evaluation.  [**Month (only) 11**] initiate TF if
   remains aspiration risk.
   Thrombocytopenia:  Heparin on hold. Will check HIT.
   PCN ALLERGY -- avoid penicillin products.
   ENCEPHALOPATHY
 hepatic but at present coherent.  Continue lactulose
   PO or via NG tube.. Will hold nadolol given BP issues. Ursodiol to
   continue if he can take PO
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:  will place central line for drips. Will give FFP for placement
   20 Gauge - [**2190-12-7**] 06:27 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:  50 minutes
   ------ Protected Section ------
   I have seen and examined the patient and updated the family about Mr
   [**Known lastname 1647**]
s plan of care. He is transferred back to the ICU with hypoxemia
   respiratory distress, multifocal infiltrates and borderline blood
   pressures. He has been off diuretics for more than 48 hours by report
   and his Digoxin and amiodraone have been on hold too. There has not
   been a witnessed aspiration event but his wife does report scant
   hemoptysis. His Hct is down to 26 and BNP is greater than [**Numeric Identifier 1757**]. He has
   diffuse rales to exam with minimal edema. His presentation is
   concerning for worsening CHF vs non-cardiogenic edema from sepsis ( ?
   aspiration PNA). He will need re-institution of a lasix drip with low
   dose pressors if needed over next 24 hours. We will reinitiate digoxin
   in the short term for heart rate control too. PICC line vs CVL to be
   placed today after FFP. BiPAP will be used as a bridge if mental status
   allows for this. He and his family do not wish for an NG tube at this
   time.  He is a full code. CC time : 50 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 1706**] [**Name8 (MD) 1707**], MD
   on:[**2190-12-8**] 12:13 ------

2190-12-09 09:27:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Intubated, with PaO2 on NC (woud not wear mask). Bronchoscopy last
   night with BAL from the RUL
   Defer NG/OG in the history of varices
   FEUrea> 35%
   PICC line placed
   Allergies:
   Iodine
   Unknown;
   Penicillins
   Hives; Shortnes
   Morphine
   Unknown;
   Flagyl (Oral) (Metronidazole)
   Unknown;
   Allopurinol
   Unknown;
   Erythromycin (Oral) (Erythromycin Base)
   Unknown;
   Tetracycline
   Unknown;
   Septra (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Ramipril
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2190-12-7**] 10:04 PM
   Vancomycin - [**2190-12-8**] 09:00 PM
   Aztreonam - [**2190-12-9**] 04:08 AM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Phenylephrine - 0.8 mcg/Kg/min
   Furosemide (Lasix) - 20 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2190-12-9**] 06:53 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-12-9**] 09:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.1
C (97
   HR: 70 (70 - 111) bpm
   BP: 109/65(75) {96/50(61) - 134/79(92)} mmHg
   RR: 17 (13 - 25) insp/min
   SpO2: 98%
   Heart rhythm: AV Paced
   Wgt (current): 78 kg (admission): 75 kg
   Height: 67 Inch
             Total In:
                                                                  1,286 mL
                                                                    715 mL
   PO:
             TF:
   IVF:
                                                                    716 mL
                                                                    715 mL
   Blood products:
                                                                    570 mL
   Total out:
                                                                  1,650 mL
                                                                    615 mL
   Urine:
                                                                  1,650 mL
                                                                    615 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -364 mL
                                                                    100 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 1,564 (1,270 - 1,565) mL
   PS : 18 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   Plateau: 15 cmH2O
   Compliance: 100 cmH2O/mL
   SpO2: 98%
   ABG: 7.31/40/162/17/-5
   Ve: 9.3 L/min
   PaO2 / FiO2: 324
   Physical Examination
   General Appearance: No acute distress, sedated
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bases bilateral)
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, No(t) Oriented (to): , Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.9 g/dL
   171 K/uL
   414 mg/dL
   2.1 mg/dL
   17 mEq/L
   3.5 mEq/L
   64 mg/dL
   102 mEq/L
   130 mEq/L
   26.0 %
   12.8 K/uL
        [image002.jpg]
                            [**2190-12-4**]  02:38 AM
                            [**2190-12-7**]  06:19 PM
                            [**2190-12-7**]  07:01 PM
                            [**2190-12-8**]  03:29 AM
                            [**2190-12-8**]  03:24 PM
                            [**2190-12-8**]  07:42 PM
                            [**2190-12-8**]  08:36 PM
                            [**2190-12-8**]  09:53 PM
                            [**2190-12-8**]  11:53 PM
                            [**2190-12-9**]  04:28 AM
   WBC
   19.3
   8.1
   9.3
   11.3
   14.0
   12.8
   Hct
   29.5
   23.1
   25.9
   26.4
   26.2
   26.0
   Plt
   177
   48
   83
   96
   164
   171
   Cr
   2.8
   2.1
   2.1
   2.0
   2.1
   2.1
   TropT
   0.05
   0.05
   TCO2
   17
   16
   18
   21
   Glucose
   [**Telephone/Fax (3) 1775**]
   Other labs: PT / PTT / INR:19.3/150.0/1.8, CK / CKMB /
   Troponin-T:92/4/0.05, ALT / AST:36/38, Alk Phos / T Bili:85/2.3,
   Amylase / Lipase:60/96, Differential-Neuts:89.9 %, Lymph:4.7 %,
   Mono:4.7 %, Eos:0.6 %, Fibrinogen:142 mg/dL, Lactic Acid:1.8 mmol/L,
   Albumin:3.6 g/dL, LDH:379 IU/L, Ca++:7.8 mg/dL, Mg++:2.0 mg/dL, PO4:4.2
   mg/dL
   Fluid analysis / Other labs: GM and 1,3 Glucan pending
   Microbiology: Induced sputum [**12-8**]: PCP pending
   BAL: 2+ PMN no org
   PCP pending
   Assessment and Plan
   71 y.o. man with UC (on chronic steroids), cirrhosis (uncleare
   etiology), Afib, CAD s/p CABG, already in MICU recently for hypotension
   re-admitted with progressive respiratory failure, intubated [**12-8**] and
   bronched. Concern for now for multifocal PNA (HAP vs PCP vs fungal)
   with an additional component of heart failure.
   Respiratory failure: multiple contributing factors including heart
   failure with systolic dysfunction (EF 20%) and new likely multifocal
   PNA (with concern for PCP given his hx of steroids)
   -current treatment includes and will cont pending clx data. Awaiting
   PCP [**Name9 (PRE) 1780**] data from BAL (LDH not supportive at present)
   Aztreonam [**12-7**] for all
   Vancomycin trough in the PM
   Levofloxacin
   - cont steroids 40 mg IV bid (stress and UC)
   - diuresis with goal net out 1L using phenylephrine goal MAP of 60
   mmHg. Lytes in the afternoon with Mg>2 and K>4. Restart aldactone when
   OG tube in place.
   - wean FiO2 and keep PEEP at 8
   - Non con CT scan of the chest reveals interstitial and alveolar
   infiltrates concerning for edema, possibly interstitial PNA or possibly
   hemorrhage. Small effusions with perihepatic ascites.
   - Arterial line placement
   - sedation with propofol check triglycerides
   Stage IV Cirrhosis: unclear etiology possibly [**3-13**] PSC in the setting of
   UC vs auto immune process, ? drop in Hct related to variceal bleed,
   plan for endoscopy with placement of OG tube. Will plan to restart
   Lactulose when he has oral access.
   Glucose control: convert to IV insulin, goal 110-150 mg/dL
   Renal failure: increased BUN, FEUrea > 35%. Diuresis goal as above
   Heart failure: as above and utilizing IV digoxin (with dose reduction)
   for A-fibrillation and contractility. Diuresis as above. Will contact
   cardiology  for input as they were following while patient on floor.
   Thrombocytopenia: PF4 pending, now improved, holding heparin. Not
   entirely clear as to source.
   Anion gap: lactate normal. Will continue to follow.
   ICU Care
   Nutrition:
   Comments: deferrring tube feeds
   Glycemic Control:  Insulin infusion
   Lines: DL PICC
   20 Gauge - [**2190-12-7**] 06:27 PM
   PICC Line - [**2190-12-8**] 02:40 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI (changed to IV given no PO access)
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:  has extensive discussion with Daughter and
   wife at the bedside to update regarding his current situation and plans
   for care over next 24 hours.
   Code status: Full code
   Disposition :ICU
   Total time spent: 60 minutes

2190-12-10 07:25:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2190-12-9**] 04:00 PM
 MULTI LUMEN - START [**2190-12-9**] 05:00 PM
   1.       L radial A-line placement
   2.       RIJ placement
   3.       2pm ABG: 7.31/43/134 (FiO2 50% 11/5) dropped PEEP to 8 to 5
   4.       10 pm ABG: 7.38/39/65, thus increased PEEP back to 8.
   5.       Culture data:KOH cancelled, rapid viral cancelled
   6.       PCP [**Name Initial (PRE) 1802**]: pending
   7.       I/O goal: 1L negative with Lasix and Neo.  24 hour
   8.       Titrate  insulin gtt with goal 100-150.
   9.       Liver recs: possible scope in am with placement of NGT if
   patient continues to bleed.
   10.    3PM lytes: notable for K 3.0
 getting 60mEq IV
   11.    Chest CT: official read: Bilateral multifocal
   peri-bronchovascular consolidation and ground-glass opacity, more
   likely multifocal infection or hemorrhage.
   12.    Started Digoxin IV.
   13.    Changed Vanc trough in am, to be dosed in morning.
   Allergies:
   Iodine
   Unknown;
   Penicillins
   Hives; Shortnes
   Morphine
   Unknown;
   Flagyl (Oral) (Metronidazole)
   Unknown;
   Allopurinol
   Unknown;
   Erythromycin (Oral) (Erythromycin Base)
   Unknown;
   Tetracycline
   Unknown;
   Septra (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Ramipril
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2190-12-8**] 09:00 PM
   Levofloxacin - [**2190-12-9**] 10:00 PM
   Aztreonam - [**2190-12-10**] 04:00 AM
   Infusions:
   Phenylephrine - 0.3 mcg/Kg/min
   Insulin - Regular - 2 units/hour
   Furosemide (Lasix) - 15 mg/hour
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-12-10**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 70 (70 - 83) bpm
   BP: 110/56(69) {92/47(58) - 113/68(77)} mmHg
   RR: 16 (15 - 23) insp/min
   SpO2: 98%
   Heart rhythm: AV Paced
   Wgt (current): 78 kg (admission): 75 kg
   Height: 67 Inch
             Total In:
                                                                  2,415 mL
                                                                    413 mL
   PO:
             TF:
   IVF:
                                                                  1,856 mL
                                                                    413 mL
   Blood products:
                                                                    559 mL
   Total out:
                                                                  2,765 mL
                                                                  1,160 mL
   Urine:
                                                                  2,765 mL
                                                                  1,160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -350 mL
                                                                   -747 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 137
   PIP: 27 cmH2O
   Plateau: 19 cmH2O
   SpO2: 98%
   ABG: 7.42/37/127/22/0
   Ve: 9.8 L/min
   PaO2 / FiO2: 318
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   124 K/uL
   8.9 g/dL
   85 mg/dL
   2.2 mg/dL
   22 mEq/L
   3.1 mEq/L
   83 mg/dL
   111 mEq/L
   145 mEq/L
   26.5 %
   16.0 K/uL
        [image002.jpg]
                            [**2190-12-8**]  08:36 PM
                            [**2190-12-8**]  09:53 PM
                            [**2190-12-8**]  11:53 PM
                            [**2190-12-9**]  04:28 AM
                            [**2190-12-9**]  02:10 PM
                            [**2190-12-9**]  02:20 PM
                            [**2190-12-9**]  11:01 PM
                            [**2190-12-9**]  11:48 PM
                            [**2190-12-10**]  03:59 AM
                            [**2190-12-10**]  06:15 AM
   WBC
   14.0
   12.8
   15.7
   16.0
   Hct
   26.2
   26.0
   27.0
   26.5
   Plt
   164
   171
   160
   124
   Cr
   2.1
   2.1
   2.2
   2.2
   TCO2
   18
   21
   23
   24
   24
   25
   Glucose
   [**Telephone/Fax (3) 1803**]5
   Other labs: PT / PTT / INR:18.0/30.7/1.6, CK / CKMB /
   Troponin-T:92/4/0.05, ALT / AST:36/38, Alk Phos / T Bili:85/1.8,
   Amylase / Lipase:60/96, Differential-Neuts:95.5 %, Lymph:2.3 %,
   Mono:2.1 %, Eos:0.0 %, Fibrinogen:338 mg/dL, Lactic Acid:1.3 mmol/L,
   Albumin:3.5 g/dL, LDH:379 IU/L, Ca++:8.7 mg/dL, Mg++:1.9 mg/dL, PO4:3.8
   mg/dL
   Assessment and Plan
 CHEST PAIN
 .H/O HEART FAILURE (CHF), DIASTOLIC, ACUTE
 RENAL ARTERY STENOSIS (RAS)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 DIABETES MELLITUS (DM), TYPE II
 HYPOXEMIA
 HYPOTENSION (NOT SHOCK)
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
 .H/O CIRRHOSIS OF LIVER, OTHER
   Assessment and Plan
   A/P: 70M h/o liver cirrhosis c/b esophogeal varices, hematochezia,
   ulcerative colitis, coronary disease s/p MI and CABG, CVA, CRI, Afib on
   coumadin, presents from floor with hypotension, hypoxia, and
   tachypnea.
   # Respiratory Failure: treating as combination of CHF and possibility
   of multifocal pna, though family notes that he has past admissions for
   pna which is more CHF in etiology
   Continue mechanical ventilation,
   - Non-con CT of chest obtained this am on rounds, focal opacificaiton
   in RUL,  diffuse infiltrates and ground glass, some pleural based
   nodules raise suspicion of fungal process; fungal cultures from BAL
   pending, as is PCP, [**Name10 (NameIs) **] and galactomannan. Volume overload not
   exonerated.
   .# Chronic systolic heart failure: EF 20-25% per OSH records, s/p ICD
   for VT w/ dual-chamber pacemaker. Appears euvolemic currently.
   - Daily weights and I/Os strictly ; continuing lasix gtt for additional
   volume off
   - holding lisinopril in setting of hypotension
   - change digoxin to IV, reduce by 25%
   # Multifocal PNA
   - BAL pending, including PCP and viral [**Name9 (PRE) 1776**], fungal and bacterial
   cultures
   - Continuing broad spectrum abx including vancomycin, levofloxacin, and
   aztreonam, given penicillin allergy
   -IV solumedrol 40mg [**Hospital1 **] for PCP (needs stress steroids), patient with
   sulfa allergy, will try to clarify before initiating bactrim.
   - Consider addition of anti-fungal coverage if clinically worsens
   # Hypotension: Mixed picture with sv02,
   -broad spectrum antibiotics
   -Holding nadolol, ACEI
   #thrombocytopenia: timecourse suggestive of HIT, will send off heparin
   dependent antibodies.
   - Plts increasing
   - PF4 pending given intermediate risk
   #GI bleed: History of esophogeal varices. Also related to UC given
   recent flare and discontinuing medications in the past week.
   - lansoprazole
   -holding coumadin
   -solumedrol for ulcerative colitis
   - liver involved; concern for esophageal variceal bleed vs. portal
   hypertensive gastropathy
   - No NT/OG tube now
   # Altered mental status: Likely due to hepatic encephalopathy off
   medications. Infectious causes also possible.
   - Lacutlose  on hold while sedated
   - f/u broad cultures
   - Continue abx
    # Ulcerative colitis: Followed by Dr. [**First Name (STitle) **]. Recent flare noted on
   C-scope [**10-18**]. Patient had been non-compliant with medications for the
   past week coinciding with worsening of his symptoms.
   -solumedrol 40mg IV BID.
   -followed by dr. [**First Name (STitle) **]
   # Cirrhosis: Stage IV based on varices, ascites, splenomegaly. Followed
   by Dr. [**Name (STitle) 1609**]. Etiology of cirrhosis was unclear. Possibility with
   PSC with UC was entertained and an outpatient ERCP was recommened by
   liver within 2 weeks of discharge.
   - Continue Ursodiol for ?PSC; consider inpatient MRCP/ERCP
   - Liver following
   # Acute on chronic renal failure: Baseline Cre 1.8-2.0, currently 2.0,
   resolved with fluid resuscitation. Likely prerenal [**3-13**] poor PO intake
   and diarrhea.
   -urine lytes not suggestive of pre-renal azotemia
   -lasix drip
   # CAD: s/p multiple prior MI and CABG revascularization.
   - holding aspirin in setting of GI bleed.
   - Hold beta-blockers and lisinopril given hypotension
   - Continue statin
   # Afib: A-V paced.
   -restarting digoxin
   - amiodarone, per cards.
   - Hold beta-blockers and coumadin for now
   - cardiac recs
   # CVA: Reported to have had stroke in past in setting of not being on
   coumadin, complicated by residual defecits. Holding coumadin.
   # DM2: Unknown recent A1c. Hold metformin while in-house, increased FSG
   coverage
   # FEN: NPO, replete lytes prn
   # Access: PIV x2 (18g)  PICC
    # PPx:  PPI, pneumoboots
   # Code: Full
   # Dispo: ICU pending HD stability, improved mental status
   # Comm: [**Name (NI) 288**] (daughter) ([**2190**]; cell ([**Telephone/Fax (1) 1612**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2190-12-8**] 02:40 PM
   22 Gauge - [**2190-12-9**] 01:22 PM
   Arterial Line - [**2190-12-9**] 04:00 PM
   Multi Lumen - [**2190-12-9**] 05:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2190-12-10 07:46:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: Acute respiratory failure
   24 Hour Events:
 ARTERIAL LINE - START [**2190-12-9**] 04:00 PM
 MULTI LUMEN - START [**2190-12-9**] 05:00 PM
   > did not tolerate PEEP of 5cmH2O
   Allergies:
   Iodine
   Unknown;
   Penicillins
   Hives; Shortnes
   Morphine
   Unknown;
   Flagyl (Oral) (Metronidazole)
   Unknown;
   Allopurinol
   Unknown;
   Erythromycin (Oral) (Erythromycin Base)
   Unknown;
   Tetracycline
   Unknown;
   Septra (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Ramipril
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2190-12-8**] 09:00 PM
   Levofloxacin - [**2190-12-9**] 10:00 PM
   Aztreonam - [**2190-12-10**] 04:00 AM
   Infusions:
   Phenylephrine - 0.3 mcg/Kg/min
   Insulin - Regular - 2 units/hour
   Furosemide (Lasix) - 15 mg/hour
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-12-10**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 70 (70 - 83) bpm
   BP: 110/56(69) {92/47(58) - 113/68(77)} mmHg
   RR: 16 (15 - 23) insp/min
   SpO2: 98%
   Heart rhythm: AV Paced
   Wgt (current): 78 kg (admission): 75 kg
   Height: 67 Inch
             Total In:
                                                                  2,415 mL
                                                                    425 mL
   PO:
             TF:
   IVF:
                                                                  1,856 mL
                                                                    425 mL
   Blood products:
                                                                    559 mL
   Total out:
                                                                  2,765 mL
                                                                  1,160 mL
   Urine:
                                                                  2,765 mL
                                                                  1,160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -350 mL
                                                                   -735 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 137
   PIP: 27 cmH2O
   Plateau: 19 cmH2O
   SpO2: 98%
   ABG: 7.42/37/127/22/0
   Ve: 9.8 L/min
   PaO2 / FiO2: 318
   Physical Examination
   General Appearance: Well nourished
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bases bilateral)
   Abdominal: Soft, Bowel sounds present, Distended
   Extremities: Right: 1+, Left: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Purposeful, Sedated,
   Tone: Not assessed
   Labs / Radiology
   8.9 g/dL
   124 K/uL
   85 mg/dL
   2.2 mg/dL
   22 mEq/L
   3.1 mEq/L
   83 mg/dL
   111 mEq/L
   145 mEq/L
   26.5 %
   16.0 K/uL
        [image002.jpg]
                            [**2190-12-8**]  08:36 PM
                            [**2190-12-8**]  09:53 PM
                            [**2190-12-8**]  11:53 PM
                            [**2190-12-9**]  04:28 AM
                            [**2190-12-9**]  02:10 PM
                            [**2190-12-9**]  02:20 PM
                            [**2190-12-9**]  11:01 PM
                            [**2190-12-9**]  11:48 PM
                            [**2190-12-10**]  03:59 AM
                            [**2190-12-10**]  06:15 AM
   WBC
   14.0
   12.8
   15.7
   16.0
   Hct
   26.2
   26.0
   27.0
   26.5
   Plt
   164
   171
   160
   124
   Cr
   2.1
   2.1
   2.2
   2.2
   TCO2
   18
   21
   23
   24
   24
   25
   Glucose
   [**Telephone/Fax (3) 1803**]5
   Other labs: PT / PTT / INR:18.0/30.7/1.6, CK / CKMB /
   Troponin-T:92/4/0.05, ALT / AST:36/38, Alk Phos / T Bili:85/1.8,
   Amylase / Lipase:60/96, Differential-Neuts:95.5 %, Lymph:2.3 %,
   Mono:2.1 %, Eos:0.0 %, Fibrinogen:338 mg/dL, Lactic Acid:1.3 mmol/L,
   Albumin:3.5 g/dL, LDH:379 IU/L, Ca++:8.7 mg/dL, Mg++:1.9 mg/dL, PO4:3.8
   mg/dL
   CXR: [**12-10**] improved aeration compared to yesterday.
   Assessment and Plan
   71 y.o. man with UC (on chronic steroids), cirrhosis (unclear
   etiology), Afib, CAD s/p CABG, already in MICU recently for hypotension
   re-admitted with progressive respiratory failure, intubated [**12-8**] and
   bronched. Concern for now for multifocal PNA (HAP vs PCP vs fungal)
   with an additional component of heart failure.
   >Respiratory failure: multiple contributing factors including heart
   failure with systolic dysfunction (EF 20%) and new likely multifocal
   PNA (PCP neg in BAL, awaiting 1,3gluc and GM for fungal)
   -current treatment includes and will cont despite neg clx data. Will
   plan for 14 day course.
   Aztreonam [**12-7**] for all
   Vancomycin trough 20.8 [**12-9**] (PM)
   Levofloxacin
   - cont steroids 40 mg IV bid (stress and UC)
   - diuresis with goal net out 1L using phenylephrine goal MAP of 60
   mmHg. Lytes in the afternoon with Mg>2 and K>4. Restart aldactone when
   OG tube in place.
   - SBT on [**6-14**] for now. Check ABG after 1hr.
   - Non con CT scan of the chest reveals interstitial and alveolar
   infiltrates concerning for edema, possibly interstitial PNA or possibly
   hemorrhage. Small effusions with perihepatic ascites.
   - sedation with propofol check triglycerides
   >Stage IV Cirrhosis: unclear etiology possibly [**3-13**] PSC in the setting
   of UC vs auto immune process, ? drop in Hct related to variceal bleed,
   plan for endoscopy with placement of OG tube.
   -Will plan to restart  Lactulose when he has oral access.
   >Glucose control: convert to IV insulin, goal 110-150 mg/dL
   >Renal failure: increased BUN, FEUrea > 35%. Diuresis goal as above
   >Heart failure: appreciate cards input.
   -  As above and utilizing IV digoxin (with dose reduction)  for
   A-fibrillation and contractility.
   -Diuresis as above. Appreciate cards input.
   Thrombocytopenia: Improving, doesn
t time with heparin received so we
   will restart hep Sq.  cont to follow
   Other issues per ICU resident note.
   ICU Care
   Nutrition:
   Comments: deferring tubed feeds pending endo
   Glycemic Control:  Insulin infusion
   Lines:
   PICC Line - [**2190-12-8**] 02:40 PM
   22 Gauge - [**2190-12-9**] 01:22 PM
   Arterial Line - [**2190-12-9**] 04:00 PM
   Multi Lumen - [**2190-12-9**] 05:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Family meeting held  Comments:  Updated wife regarding
   status today. I am hopeful we will proceed towards extubation in am
   [**2190-12-11**] if there is no setback on prolonged PSv/CPAP trial.
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2190-12-11 06:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2190-12-10**] 01:15 PM
   Bilateral Lenis completed
   1.passed SBT at 2pm  7.43/35/121  5/0, plan is to extubate [**12-11**].
   2.neosinephrine weaned off
   3.2500cc negative on lasix drip
   4.lasix drip discontinued at 2am
   Allergies:
   Iodine
   Unknown;
   Penicillins
   Hives; Shortnes
   Morphine
   Unknown;
   Flagyl (Oral) (Metronidazole)
   Unknown;
   Allopurinol
   Unknown;
   Erythromycin (Oral) (Erythromycin Base)
   Unknown;
   Tetracycline
   Unknown;
   Septra (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Ramipril
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2190-12-9**] 10:00 PM
   Vancomycin - [**2190-12-10**] 02:12 PM
   Aztreonam - [**2190-12-11**] 04:00 AM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Insulin - Regular - 1 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2190-12-11**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-12-11**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.1
C (97
   HR: 70 (70 - 76) bpm
   BP: 103/56(66) {93/48(58) - 117/64(76)} mmHg
   RR: 7 (7 - 21) insp/min
   SpO2: 99%
   Heart rhythm: AV Paced
   Wgt (current): 78 kg (admission): 75 kg
   Height: 67 Inch
    CVP: 6 (-2 - 11)mmHg
   Total In:
                                                                  1,506 mL
                                                                    327 mL
   PO:
   TF:
   IVF:
                                                                  1,506 mL
                                                                    327 mL
   Blood products:
   Total out:
                                                                  4,080 mL
                                                                    930 mL
   Urine:
                                                                  4,080 mL
                                                                    930 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,574 mL
                                                                   -603 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 600 (600 - 713) mL
   PS : 5 cmH2O
   RR (Set): 18
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 16
   PIP: 10 cmH2O
   Plateau: 19 cmH2O
   SpO2: 99%
   ABG: 7.40/40/144/23/0
   Ve: 6.5 L/min
   PaO2 / FiO2: 360
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   113 K/uL
   9.6 g/dL
   74 mg/dL
   2.4 mg/dL
   23 mEq/L
   3.4 mEq/L
   92 mg/dL
   113 mEq/L
   149 mEq/L
   28.7 %
   13.8 K/uL
        [image002.jpg]
                            [**2190-12-9**]  02:20 PM
                            [**2190-12-9**]  11:01 PM
                            [**2190-12-9**]  11:48 PM
                            [**2190-12-10**]  03:59 AM
                            [**2190-12-10**]  06:15 AM
                            [**2190-12-10**]  12:44 PM
                            [**2190-12-10**]  02:16 PM
                            [**2190-12-10**]  03:36 PM
                             [**2190-12-11**]  02:17 AM
                             [**2190-12-11**]  02:31 AM
   WBC
   16.0
   14.1
   13.8
   Hct
   26.5
   27.3
   28.7
   Plt
   124
   125
   113
   Cr
   2.2
   2.3
   2.4
   TCO2
   23
   24
   24
   25
   22
   24
   26
   Glucose
   85
   97
   135
   74
   Other labs: PT / PTT / INR:17.7/32.0/1.6, CK / CKMB /
   Troponin-T:92/4/0.05, ALT / AST:39/41, Alk Phos / T Bili:80/1.8,
   Amylase / Lipase:60/96, Differential-Neuts:95.5 %, Lymph:2.3 %,
   Mono:2.1 %, Eos:0.0 %, Fibrinogen:338 mg/dL, Lactic Acid:1.3 mmol/L,
   Albumin:3.5 g/dL, LDH:312 IU/L, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL, PO4:4.5
   mg/dL
   Imaging: [**12-10**]: LENIS  b/l DVT
   Assessment and Plan
 CHEST PAIN
 .H/O HEART FAILURE (CHF), DIASTOLIC, ACUTE
 RENAL ARTERY STENOSIS (RAS)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 DIABETES MELLITUS (DM), TYPE II
 HYPOXEMIA
 HYPOTENSION (NOT SHOCK)
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
 .H/O CIRRHOSIS OF LIVER, OTHER
   A/P: 70M h/o liver cirrhosis c/b esophogeal varices, hematochezia,
   ulcerative colitis, coronary disease s/p MI and CABG, CVA, CRI, Afib on
   coumadin, presents from floor with hypotension, hypoxia, and
   tachypnea.
   # Respiratory Failure: treating as combination of CHF and possibility
   of multifocal pna, though family notes that he has past admissions for
   pna which is more CHF in etiology.  Chest CT most consistent with
   multifocal pneumonia vs. pulmonary hemorrhage.  Diuresed well overnight
   on lasix drip.  CXR this am with less pulmonary edema.  Patient
   oxygenating better on vent.  PCP negative
   [**Name9 (PRE) 1809**]  extubation today or [**12-11**].
   # Chronic systolic heart failure: EF 20-25% per OSH records, s/p ICD
   for VT w/ dual-chamber pacemaker. Appears euvolemic currently.
   - Daily weights and I/Os strictly ; continuing lasix gtt for additional
   volume off
   - holding lisinopril in setting of hypotension
   - change digoxin to IV, reduce by 25%
   # Multifocal PNA
   - BAL pending, including PCP and viral [**Name9 (PRE) 1776**], fungal and bacterial
   cultures
   - Continuing broad spectrum abx including vancomycin, levofloxacin, and
   aztreonam, given penicillin allergy.
   - Consider addition of anti-fungal coverage if clinically worsens
   # Hypotension: sepsis vs CHF.
   -broad spectrum antibiotics
   -IV solumedrol for stress dose steroids.
   -Holding nadolol, ACEI
   #thrombocytopenia: timecourse suggestive of HIT, will send off heparin
   dependent antibodies.
   - Plts increasing
   - PF4 pending given intermediate risk
   #GI bleed: History of esophogeal varices. Also related to UC given
   recent flare and discontinuing medications in the past week.
   - lansoprazole
   -holding coumadin
   -solumedrol for ulcerative colitis
   - liver involved; concern for esophageal variceal bleed vs. portal
   hypertensive gastropathy
   - No NT/OG tube now
   # Altered mental status: Likely due to hepatic encephalopathy off
   medications. Infectious causes also possible.
   - Lactulose  PR
   - f/u broad cultures
   - Continue abx
    # Ulcerative colitis: Followed by Dr. [**First Name (STitle) **]. Recent flare noted on
   C-scope [**10-18**]. Patient had been non-compliant with medications for the
   past week coinciding with worsening of his symptoms.
   -solumedrol 40mg IV BID.
   -followed by dr. [**First Name (STitle) **]
   # Cirrhosis: Stage IV based on varices, ascites, splenomegaly. Followed
   by Dr. [**Name (STitle) 1609**]. Etiology of cirrhosis was unclear. Possibility with
   PSC with UC was entertained and an outpatient ERCP was recommened by
   liver within 2 weeks of discharge.
   - Continue Ursodiol for ?PSC; consider inpatient MRCP/ERCP
   - Liver following
   # Acute on chronic renal failure: Baseline Cre 1.8-2.0, currently 2.0,
   resolved with fluid resuscitation. Likely prerenal [**3-13**] poor PO intake
   and diarrhea.
   -urine lytes not suggestive of pre-renal azotemia
   -lasix drip
   # CAD: s/p multiple prior MI and CABG revascularization.
   - holding aspirin in setting of GI bleed.
   - Hold beta-blockers and lisinopril given hypotension
   - Continue statin
   # Afib: A-V paced.
   -digoxin IV
   - amiodarone, per cards.
   - Hold beta-blockers and coumadin for now
   - cardiac recs
   # CVA: Reported to have had stroke in past in setting of not being on
   coumadin, complicated by residual defecits. Holding coumadin.
   # DM2: Unknown recent A1c. Hold metformin while in-house, increased FSG
   coverage. In [**Last Name (un) 1810**] drip
   # FEN: NPO, replete lytes prn
   # Access: PIV x2 (18g)  PICC, RIJ
   # PPx:  PPI, pneumoboots
   # Code: Full
   # Dispo: ICU pending HD stability, improved mental status
   # Comm: [**Name (NI) 288**] (daughter) ([**2190**]; cell ([**Telephone/Fax (1) 1612**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2190-12-8**] 02:40 PM
   22 Gauge - [**2190-12-9**] 01:22 PM
   Arterial Line - [**2190-12-9**] 04:00 PM
   Multi Lumen - [**2190-12-9**] 05:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2190-12-8**] 02:40 PM
   22 Gauge - [**2190-12-9**] 01:22 PM
   Arterial Line - [**2190-12-9**] 04:00 PM
   Multi Lumen - [**2190-12-9**] 05:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2190-12-11 08:01:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: Respiratory failue
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   71 y.o. M w/ new dx cirrhosis transferred to MICU for HOTN, likely due
   to multifocal PNA and CHF.
   24 Hour Events:
 ULTRASOUND - At [**2190-12-10**] 01:15 PM
   Bilateral Lenis completed - negative for DVT
   - continued diuresis O/N (-2.5 liters)
   - passed SBT yesterday
   - weaned off neo overnight
   History obtained from Medical records, HO
   Patient unable to provide history: Sedated, Encephalopathy
   Allergies:
   Iodine
   Unknown;
   Penicillins
   Hives; Shortnes
   Morphine
   Unknown;
   Flagyl (Oral) (Metronidazole)
   Unknown;
   Allopurinol
   Unknown;
   Erythromycin (Oral) (Erythromycin Base)
   Unknown;
   Tetracycline
   Unknown;
   Septra (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Ramipril
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2190-12-9**] 10:00 PM
   Vancomycin - [**2190-12-10**] 02:12 PM
   Aztreonam - [**2190-12-11**] 04:00 AM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Insulin - Regular - 1 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2190-12-11**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-12-11**] 08:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.1
C (97
   HR: 70 (70 - 76) bpm
   BP: 103/56(66) {93/48(58) - 117/64(76)} mmHg
   RR: 7 (7 - 21) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm), AV Paced
   Wgt (current): 78 kg (admission): 75 kg
   Height: 67 Inch
   CVP: 6 (-2 - 11)mmHg
   Total In:
                                                                  1,506 mL
                                                                    340 mL
   PO:
   TF:
   IVF:
                                                                  1,506 mL
                                                                    340 mL
   Blood products:
   Total out:
                                                                  4,080 mL
                                                                    930 mL
   Urine:
                                                                  4,080 mL
                                                                    930 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,574 mL
                                                                   -590 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 600 (600 - 713) mL
   PS : 5 cmH2O
   RR (Set): 18
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 16
   PIP: 10 cmH2O
   Plateau: 19 cmH2O
   SpO2: 99%
   ABG: 7.40/40/144/23/0
   Ve: 6.5 L/min
   PaO2 / FiO2: 360
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Not assessed), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Bronchial: )
   Abdominal: Soft, Non-tender, Bowel sounds present, mild shifting
   dullness
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   9.6 g/dL
   113 K/uL
   74 mg/dL
   2.4 mg/dL
   23 mEq/L
   3.4 mEq/L
   92 mg/dL
   113 mEq/L
   149 mEq/L
   28.7 %
   13.8 K/uL
        [image002.jpg]
                            [**2190-12-9**]  02:20 PM
                            [**2190-12-9**]  11:01 PM
                            [**2190-12-9**]  11:48 PM
                            [**2190-12-10**]  03:59 AM
                            [**2190-12-10**]  06:15 AM
                            [**2190-12-10**]  12:44 PM
                            [**2190-12-10**]  02:16 PM
                            [**2190-12-10**]  03:36 PM
                             [**2190-12-11**]  02:17 AM
                             [**2190-12-11**]  02:31 AM
   WBC
   16.0
   14.1
   13.8
   Hct
   26.5
   27.3
   28.7
   Plt
   124
   125
   113
   Cr
   2.2
   2.3
   2.4
   TCO2
   23
   24
   24
   25
   22
   24
   26
   Glucose
   85
   97
   135
   74
   Other labs: PT / PTT / INR:17.7/32.0/1.6, CK / CKMB /
   Troponin-T:92/4/0.05, ALT / AST:39/41, Alk Phos / T Bili:80/1.8,
   Amylase / Lipase:60/96, Differential-Neuts:95.5 %, Lymph:2.3 %,
   Mono:2.1 %, Eos:0.0 %, Fibrinogen:338 mg/dL, Lactic Acid:1.3 mmol/L,
   Albumin:3.5 g/dL, LDH:312 IU/L, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL, PO4:4.5
   mg/dL
   - CXR
 worsening LLL consolidation with partial loss of L
   hemidiaphragm
   MICRO: BAL [**12-8**]
 negative to date, Fungal Cx
 pending, beta glucan
   and galactomannan pending
   Assessment and Plan
   71 y.o. man with UC (on chronic steroids), cirrhosis (unclear
   etiology), Afib, CAD s/p CABG, moderate MR readmitted to MICU with
   progressive respiratory failure likely due to multifocal PNA and CHF.
 HYPOXEMIA / Respiratory failure - improved w/ diureses and
   antibiotics.
   - ready for extubation today
   - f/u sputum cultures, continue vanco/aztreo/levoflox - check vanco
   level
   - hold off on further diuresis today - goal TBB even today
 H/O HEART FAILURE (CHF)
 LVEF 20-30% with moderate MR
   - as above, diuresed well yesterday, TBB even today
   - continue digoxin
   - holding ACEI in setting of Cr bump, but would have low threshold to
   resume afterload reduction given moderate MR
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   - slight bump in Cr today in setting of diuresis (baseline 1.8)
   - repeat lytes/Cr  in PM, holding ACEI as above
 DIABETES MELLITUS (DM), TYPE II
   - d/c CZI drip, f/u FS today, transition to NPH
 HYPOTENSION
 resolved, now off neo
   - improved, hold ACEI today and f/u BP
   - wean stress dose steroids
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB) /
   Ulcerative colitis
   - decrease steroids to solumedrol 40 mg QD instead of [**Hospital1 **], transition
   to home prednisone dose when able to take PO
   - cont PPI
   - cont to hold anticoagulation
 H/O CIRRHOSIS OF LIVER, OTHER
   - continue lactulose PR until able to tolerate PO intake
   # AF - s/p AV PPM
   - continue holding amiodarone
   - on digoxin, holding anticoagulation as above
   ICU Care
   Nutrition:
   Comments: Extubate today, bedside swallow assessment, possible PO trial
   Glycemic Control:  Insulin infusion, Comments: will try to transition
   to NPH today
   Lines:
   PICC Line - [**2190-12-8**] 02:40 PM
   22 Gauge - [**2190-12-9**] 01:22 PM
   Arterial Line - [**2190-12-9**] 04:00 PM
   Multi Lumen - [**2190-12-9**] 05:00 PM
   Comments: d/c CVL today
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2190-12-12 07:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - extubated yesterday AM
   - advancing diet
   - tapered steroids from Methylpred 40 [**Hospital1 **] to 40 daily
   - discontinued insulin gtt @ 1 unit/hour.  Blood glucoses subsequently
   up to 300 with RISS alone.  Started NPH 8 units [**Hospital1 **] at bedtime.
   - adjusted Vancomycin dosing to dose by level given changing renal
   function; random level ordered for AM
   - CVL d/c'd
   - Protonix, Levoflox, Digoxin changed from IV to PO
   WBC elevated this am; sending c. diff x1
   Allergies:
   Iodine
   Unknown;
   Penicillins
   Hives; Shortnes
   Morphine
   Unknown;
   Flagyl (Oral) (Metronidazole)
   Unknown;
   Allopurinol
   Unknown;
   Erythromycin (Oral) (Erythromycin Base)
   Unknown;
   Tetracycline
   Unknown;
   Septra (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Ramipril
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2190-12-11**] 08:16 AM
   Levofloxacin - [**2190-12-11**] 10:03 PM
   Aztreonam - [**2190-12-12**] 04:08 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2190-12-11**] 08:16 AM
   Heparin Sodium (Prophylaxis) - [**2190-12-12**] 04:09 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-12-12**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.3
C (97.4
   HR: 70 (69 - 72) bpm
   BP: 112/53(75) {96/39(60) - 127/66(85)} mmHg
   RR: 15 (8 - 20) insp/min
   SpO2: 98%
   Heart rhythm: AV Paced
   Wgt (current): 78 kg (admission): 75 kg
   Height: 67 Inch
             Total In:
                                                                  2,194 mL
                                                                    327 mL
   PO:
                                                                  1,180 mL
                                                                    200 mL
   TF:
   IVF:
                                                                  1,014 mL
                                                                    127 mL
   Blood products:
   Total out:
                                                                  2,225 mL
                                                                  1,000 mL
   Urine:
                                                                  2,025 mL
                                                                    500 mL
   NG:
   Stool:
                                                                    200 mL
                                                                    500 mL
   Drains:
   Balance:
                                                                    -31 mL
                                                                   -673 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 654 (252 - 654) mL
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: ///23/
   Ve: 6.7 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), flow murmur
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: clear anteriorly
   Abdominal: Soft, Non-tender
   Extremities: left>R 1+ edema
   Neurologic: Attentive and awake
   Labs / Radiology
   131 K/uL
   9.7 g/dL
   247 mg/dL
   2.2 mg/dL
   23 mEq/L
   4.2 mEq/L
   110 mg/dL
   114 mEq/L
   149 mEq/L
   29.2 %
   22.2 K/uL
        [image002.jpg]
                            [**2190-12-9**]  11:48 PM
                            [**2190-12-10**]  03:59 AM
                            [**2190-12-10**]  06:15 AM
                            [**2190-12-10**]  12:44 PM
                            [**2190-12-10**]  02:16 PM
                            [**2190-12-10**]  03:36 PM
                             [**2190-12-11**]  02:17 AM
                             [**2190-12-11**]  02:31 AM
                             [**2190-12-11**]  12:03 PM
                             [**2190-12-12**]  03:32 AM
   WBC
   16.0
   14.1
   13.8
   22.2
   Hct
   26.5
   27.3
   28.7
   28.3
   29.2
   Plt
   124
   125
   113
   131
   Cr
   2.2
   2.3
   2.4
   2.3
   2.2
   TCO2
   24
   25
   22
   24
   26
   Glucose
   85
   97
   135
   74
   189
   247
   Other labs: PT / PTT / INR:17.3/33.6/1.6, CK / CKMB /
   Troponin-T:92/4/0.05, ALT / AST:39/41, Alk Phos / T Bili:80/1.8,
   Amylase / Lipase:60/96, Differential-Neuts:95.5 %, Lymph:2.3 %,
   Mono:2.1 %, Eos:0.0 %, Fibrinogen:338 mg/dL, Lactic Acid:1.3 mmol/L,
   Albumin:3.5 g/dL, LDH:312 IU/L, Ca++:9.0 mg/dL, Mg++:2.3 mg/dL, PO4:4.4
   mg/dL
   Imaging: LENIS [**12-10**]: No DVT
   CXR [**12-11**] : LLL consolidation / PNA
   CXR [**12-12**]
   Microbiology:
   [**2190-12-8**]    ASPERGILLUS GALACTOMANNAN ANTIGEN
   [**2190-12-8**]    B-GLUCAN
   [**2190-12-9**]  SPUTUM  Preliminary
   [**2190-12-8**]  BRONCHOALVEOLAR LAVAGE  Preliminary
   [**2190-12-8**]  Rapid Respiratory Viral Screen & Culture  Preliminary
   [**2190-12-8**]  SPUTUM  Preliminary
   [**2190-12-8**]  SPUTUM  Final
   Assessment and Plan
   70M h/o liver cirrhosis c/b esophogeal varices, hematochezia,
   ulcerative colitis, coronary disease s/p MI and CABG, CVA, CRI, Afib on
   coumadin, presents from floor with hypotension, hypoxia, and
   tachypnea.
   # Respiratory Failure: treating as combination of CHF and possibility
   of multifocal pna, On broad spectrum abx and diuresed well on lasix
   drip.  Oxygenation much improved.   Extubated [**12-11**].
   -continue antibiotics x10days
   -continue to aim neeg negative TBB-500cc today
   - continue nasal cannula
   # Chronic systolic heart failure: EF 20-25% per OSH records, s/p ICD
   for VT w/ dual-chamber pacemaker. Appears euvolemic currently.
   - Daily weights and I/Os strictly
   - lasix restart at home dose
   - holding lisinopril in setting of hypotension; add hydralazine 10mg PO
   q6h for afterload reduction
   - continue digoxin PO
   # Multifocal PNA
   - BAL pending, PCP negative
   [**Name Initial (PRE) **] Continuing broad spectrum abx including vancomycin, levofloxacin, and
   aztreonam, given penicillin allergy x 10d
   # Hypotension: sepsis vs CHF.
   Improved, off of pressors, attempt afterload reduction, continue home
   lasix
   -Holding nadolol, ACEI
   #thrombocytopenia:
   - Plts increasing, suspect sequestration or sepsis as causse
   - PF4 held/not sent because timing of heparin was reassessed and plt
   drop not felt to be temporally associated.
   #GI bleed: History of esophogeal varices. Also related to UC given
   recent flare and discontinuing medications in the past week.
   - lansoprazole
   -holding coumadin
   -Change solumedrol for ulcerative colitis back to prednisone 40mg PO
   daily
   - liver following
   # Hepatic Encephalopathy:
   -          Lactulose  PR/PO
    # Ulcerative colitis: Followed by Dr. [**First Name (STitle) **]. Recent flare noted on
   C-scope [**10-18**]. Patient had been non-compliant with medications for the
   past week coinciding with worsening of his symptoms.
   - continue prednisone
   - will d/w liver restarting hydrocort enemas
   -followed by dr. [**First Name (STitle) **]
   # Cirrhosis: Stage IV based on varices, ascites, splenomegaly. Followed
   by Dr. [**Name (STitle) 1609**]. Etiology of cirrhosis was unclear. Possibility with
   PSC with UC was entertained and an outpatient ERCP was recommened by
   liver within 2 weeks of discharge.
   - Continue Ursodiol for ?PSC; consider inpatient MRCP/ERCP
   - Liver following
   # Acute on chronic renal failure:
   - Cr improving 2.4
 2.2.
   # CAD: s/p multiple prior MI and CABG revascularization.
   - restarting aspirin given stable hematocrits, still defer restarting
   warfarin.
   - Hold beta-blockers and lisinopril given hypotension
   - Continue statin
   # Afib: A-V paced.
   -digoxin IV
   - hold amiodarone, per cards.
   - Hold beta-blockers and coumadin for now
   - cardiac recs
   # CVA: Reported to have had stroke in past in setting of not being on
   coumadin, complicated by residual defecits. Holding coumadin.
   # DM2: insulin drip discontinued [**12-11**], started on ISS, will strengthen
   scale this morning
   # FEN: low salt diet PO, replete lytes prn
   # Access: PIV x2 (18g)  PICC, RIJ
   # PPx:  PPI, pneumoboots
    # Code: Full
   # Dispo: ICU pending HD stability, improved mental status
   # Comm: [**Name (NI) 288**] (daughter) ([**2190**]; cell ([**Telephone/Fax (1) 1612**]
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2190-12-8**] 02:40 PM
   Arterial Line - [**2190-12-9**] 04:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Callout to medical floor ; callout preferably to [**Hospital Ward Name 360**] hospitalist service
   ------ Protected Section ------
   Addendum: leukocytosis: no clear reason for elevation. Diff added and
   is pending. Will also check U/A and culture, in addition to sending for
   c.diff
   ------ Protected Section Addendum Entered By:[**Name (NI) 1833**] [**Last Name (NamePattern1) 1772**], MD
   on:[**2190-12-12**] 11:03 ------

2190-12-12 09:45:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   71 y.o. M w/ UC, cirrhosis, CHF (LVEF 30%), moderate MR, DM2,
   transferred for worsening hypoxemia felt to be due to CHF/multifocal
   PNA.
   24 Hour Events:
   Extubated yesterday
 INVASIVE VENTILATION - STOP [**2190-12-11**] 08:44 AM
 MULTI LUMEN - STOP [**2190-12-11**] 03:00 PM
   Tolerating PO diet robustly
   Transitioned to SC insulin, but FS remain high
   History obtained from [**Hospital 31**] Medical records, HO
   Allergies:
   Iodine
   Unknown;
   Penicillins
   Hives; Shortnes
   Morphine
   Unknown;
   Flagyl (Oral) (Metronidazole)
   Unknown;
   Allopurinol
   Unknown;
   Erythromycin (Oral) (Erythromycin Base)
   Unknown;
   Tetracycline
   Unknown;
   Septra (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Ramipril
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2190-12-11**] 08:16 AM
   Levofloxacin - [**2190-12-11**] 10:03 PM
   Aztreonam - [**2190-12-12**] 04:08 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2190-12-12**] 04:09 AM
   Other medications:
   SSI, NPH 8 [**Hospital1 **], lactulose, ursodiol, lipitor, solumedrol 40 mg qd,
   digoxin,
   Changes to medical and family history:
   none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   none
   Flowsheet Data as of  [**2190-12-12**] 09:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.4
C (97.5
   HR: 70 (69 - 72) bpm
   BP: 119/55(79) {96/39(60) - 127/66(84)} mmHg
   RR: 24 (8 - 24) insp/min
   SpO2: 99%
   Heart rhythm: AV Paced
   Wgt (current): 78 kg (admission): 75 kg
   Height: 67 Inch
             Total In:
                                                                  2,194 mL
                                                                    743 mL
   PO:
                                                                  1,180 mL
                                                                    600 mL
   TF:
   IVF:
                                                                  1,014 mL
                                                                    143 mL
   Blood products:
   Total out:
                                                                  2,225 mL
                                                                  1,180 mL
   Urine:
                                                                  2,025 mL
                                                                    680 mL
   NG:
   Stool:
                                                                    200 mL
                                                                    500 mL
   Drains:
   Balance:
                                                                    -31 mL
                                                                   -437 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, protuberant
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.7 g/dL
   131 K/uL
   247 mg/dL
   2.2 mg/dL
   23 mEq/L
   4.2 mEq/L
   110 mg/dL
   114 mEq/L
   149 mEq/L
   29.2 %
   22.2 K/uL
        [image002.jpg]
                            [**2190-12-9**]  11:48 PM
                            [**2190-12-10**]  03:59 AM
                            [**2190-12-10**]  06:15 AM
                            [**2190-12-10**]  12:44 PM
                            [**2190-12-10**]  02:16 PM
                            [**2190-12-10**]  03:36 PM
                             [**2190-12-11**]  02:17 AM
                             [**2190-12-11**]  02:31 AM
                             [**2190-12-11**]  12:03 PM
                             [**2190-12-12**]  03:32 AM
   WBC
   16.0
   14.1
   13.8
   22.2
   Hct
   26.5
   27.3
   28.7
   28.3
   29.2
   Plt
   124
   125
   113
   131
   Cr
   2.2
   2.3
   2.4
   2.3
   2.2
   TCO2
   24
   25
   22
   24
   26
   Glucose
   85
   97
   135
   74
   189
   247
   Other labs: PT / PTT / INR:17.3/33.6/1.6, CK / CKMB /
   Troponin-T:92/4/0.05, ALT / AST:39/41, Alk Phos / T Bili:80/1.8,
   Amylase / Lipase:60/96, Differential-Neuts:95.5 %, Lymph:2.3 %,
   Mono:2.1 %, Eos:0.0 %, Fibrinogen:338 mg/dL, Lactic Acid:1.3 mmol/L,
   Albumin:3.5 g/dL, LDH:312 IU/L, Ca++:9.0 mg/dL, Mg++:2.3 mg/dL, PO4:4.4
   mg/dL
   Fluid analysis / Other labs: vanco 26.7
   Imaging: CXR - R PICC, AICD, LLL consolidation imrpoved, LLL nodule?
   but overall improving infiltrate
   Microbiology: BAL - negative
   fungal markers - pending
   Assessment and Plan
   71 y.o. M w/ UC, cirrhosis, CHF (LVEF 30%), moderate MR, DM2,
   transferred for worsening hypoxemia felt to be due to CHF/multifocal
   PNA, now extubated.
 RESPIRATORY FAILURE - likely CHF and multifocal PNA, doing well on
   nasal cannula
   - will complete vanco/aztreo/levoflox (day 6 of 10)
   - change steroids to PO prednisone 40 mg qd
   - will keep TBB negative 500 today
   - wean O2 as tolerated, mobilize OOB as tolerated
 .H/O HEART FAILURE (CHF)
 systolic with MR
   - initiate afterload reduction with hydralazine 10 mg q6h with hold
   parameters until Cr recovers (ultimately ACEI should be restarted when
   Cr stabilizes)
   - TBB negative 500 [**Last Name (un) **], resume home lasix (possibly resume aldactone
   in a few days)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF) - baseline Cr 1.8,
   likely due to pre-renal or mild ATN w/ HOTN
   - trending back down, continue to hold ACEI
   - f/u PM lytes/Cr
 DIABETES MELLITUS (DM), TYPE II - FS elevated in setting of excellent
   PO intake yesterday
   - will titrate NPH to 12 units [**Hospital1 **], NCS diet
   - continue SSI coverage
   - tapering steroids (as above)
 CV/AF - continues to be paced
   - will continue to hold coumadin for now, though Hct has been stable
   (see below)
   - consider resuming ASA 81 mg qd
 LEUKOCYTOSIS - afebrile, overall improving clinically, PICC site
   clean
   - follow fever curve closely, f/u differential
   - check C. diff, U/A
   - remains on broad spectrum abx (for PNA)
 .H/O CIRRHOSIS OF LIVER
   - continue lactulose
   #HYPERNATREMIA - Na remains 149
   - liberalize PO free water intake today
   #UC / GIB
 Hct stable over last few days
   - will resume dose of prednisone 40 mg qd
   - will touch base w/ GI re: re-initiating hydrocort enemas, etc.
   ICU Care
   Nutrition:
   Comments: tolerating PO intake
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2190-12-8**] 02:40 PM
   Arterial Line - [**2190-12-9**] 04:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  family in room Comments:
   Code status: Full code
   Disposition :Transfer to floor (likely [**Hospital Ward Name 307**])
   Total time spent: 35 minutes